US07723333B2
2-Butyl-4-[(4-methoxybenzyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1-(4-methoxyphenyl)methanamine in a similar manner as described for e.g. Example 6 and 7. 1H NMR (CD3CN) δ 7.50-7.33 (m, 5H), 6.79-6.74 (m, 4H), 6.34-6.26 (m, 1H), 4.08 (d, J=6.7 Hz, 2H), 3.75 (s, 3H), 3.67 (t, J=7.2 Hz, 2H), 1.81-1.71 (m, 2H), 1.49-1.38 (m, 2H), 0.97 (t, J=7.5 Hz, 3H); Mass spectrum: M−H+ 399.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-(4-methoxyphenyl)methanamine | COC1=CC=C(C=C1)CN | C8H11NO
product | 2-Butyl-4-[(4-methoxybenzyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)NCC1=CC=C(C=C1)OC)C1=CC=CC=C1)(=O)=O | C21H24N2O4S
